US05834575
17.3 g (86.7 mmols) of N-ethyl-4-bromoaniline, 22.7 ml (1.5-fold equivalent weight) of N,N-diisopropylethylamine and 9.64 ml (1.5-fold equivalent weight) of 2-bromoethanol were mixed, and the mixture obtained was heated at 125° C. for 2 hours in an atmosphere of argon. Next, to the reaction solution obtained, 1.5 ml (0.1-fold equivalent weight) of diisopropylethylamine and 0.64 ml (0.1-fold equivalent weight) of 2-bromoethanol were added, and the mixture obtained was heated at 125° C. for 3 hours in an atmosphere of argon. Water was added to the reaction solution obtained, which was then extracted with ethyl acetate. The organic layer obtained was dried with anhydrous magnesium sulfate and then concentrated. The residue thus obtained was purified by silica gel column chromatography developing system (chloroform) to obtain 14.7 g of N-ethyl-N-(2-hydroxyethyl)-4-bromoaniline (yield: 69.5%; a colorless oily liquid).

reactant | N-ethyl-4-bromoaniline | 86.7 mmols, 17.3 g | C(C)NC1=CC=C(C=C1)Br | C8H10BrN
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-bromoethanol | BrCCO | C2H5BrO
reactant | diisopropylethylamine | 1.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-bromoethanol | 0.64 ml | BrCCO | C2H5BrO
solvent | Water | O | H2O
product | N-ethyl-N-(2-hydroxyethyl)-4-bromoaniline | 14.7 g, yield: 69.5% | C(C)N(C1=CC=C(C=C1)Br)CCO | C10H14BrNO
